US04303660
21.4 g (0.1 mole) of 1-nitropyrazolo[1,5-c]quinazoline are treated with hydrogen in ethanol and in the presence of palladium/carbon at room temperature and atmospheric pressure. When the hydrogen consumption ceases, the solution is filtered and evaporated. 14.7 g (80%) of 1-aminopyrazolo[1,5-c]quinazoline are obtained. M.p.: 168°-170° C.

reactant | 1-nitropyrazolo[1,5-c]quinazoline | 0.1 mole, 21.4 g | [N+](=O)([O-])C=1C=NN2C=NC=3C=CC=CC3C21 | C10H6N4O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium/carbon | [Pd] | Pd
product | 1-aminopyrazolo[1,5-c]quinazoline | 14.7 g, 80% | NC=1C=NN2C=NC=3C=CC=CC3C21 | C10H8N4
